US07015218B1
1-(4-Bromophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-bromophenyl)-5-methylpyrazole-4-carboxylic acid (0.6 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (0.6 g), the title compound (0.5 g) was obtained, melting point: 250–252° C.

reactant | 1-(4-bromophenyl)-5-methylpyrazole-4-carboxylic acid | 0.6 g | BrC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9BrN2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 0.6 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | 1-(4-Bromophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide | 0.5 g | BrC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C#N | C27H29BrN6O2
